US06060484
B. 2-Phenyl-2-(pyrid-4-yl)acetonitrile
The compound was prepared substantially in accordance with the procedure detailed in Example 12A, using the compound of Example 15A, benzyl cyanide (3.3 ml, 28.7 mmol) and potassium t-butoxide (6.44 g, 57.4 mmol) in 60 ml of DMF.

reactant | benzyl cyanide | 28.7 mmol, 3.3 ml | C(C1=CC=CC=C1)C#N | C8H7N
reactant | potassium t-butoxide | 57.4 mmol, 6.44 g | CC(C)([O-])C.[K+]
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
product | 2-Phenyl-2-(pyrid-4-yl)acetonitrile | C1(=CC=CC=C1)C(C#N)C1=CC=NC=C1 | C13H10N2
